US06344459B1
Dry DMF (5 drops) was added to a mixture of 6-nitrobenzothieno[3,2-d]pyrimidone (161 mg, 0.65 mmol) and oxalyl chloride (0.28 mL, 3.2 mmol) in 1,2-dichloroethane (5 mL). The reaction was heated at 85° C. for 7.5 hours then cooled to 25° C. The solid was Buchner filtered and washed with CH2Cl2 and air dried. 4-Chloro-6-nitrobenzothieno[3,2-d]pyrimidine was obtained as a gray solid (166 mg, 96% crude).

reactant | 6-nitrobenzothieno[3,2-d]pyrimidone | 0.65 mmol, 161 mg | [N+](=O)([O-])C1=CC=CC2=C1S(C1=C2N=CN=C1)=O | C10H5N3O3S
reactant | oxalyl chloride | 3.2 mmol, 0.28 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | 4-Chloro-6-nitrobenzothieno[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C1=C(S2)C(=CC=C1)[N+](=O)[O-] | C10H4ClN3O2S
